US09260397B2
3-hexyl-1-(4-methoxyphenyl)imidazolium bromide
According to the general synthesis procedure, 10.40 mmol (1,812 g) 1-(4-methoxyphenyl)imidazole and 11.44 mmol (1,889 g, 1.65 ml) 1-bromohexane are dissolved in 5 ml THF and heated for 12 h to 80° C.

reactant | 1-(4-methoxyphenyl)imidazole | 10.40 mmol, 1,812 g | COC1=CC=C(C=C1)N1C=NC=C1 | C10H10N2O
reactant | 1-bromohexane | 11.44 mmol, 1.65 ml, 1,889 g | BrCCCCCC | C6H13Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-hexyl-1-(4-methoxyphenyl)imidazolium bromide | [Br-].C(CCCCC)N1C=[N+](C=C1)C1=CC=C(C=C1)OC | InChI=1S/C16H23N2O.BrH/c1-3-4-5-6-11-17-12-13-18(14-17)15-7-9-16(19-2)10-8-15;/h7-10,12-14H,3-6,11H2,1-2H3;1H/q+1;/p-1
